US07470700B2
3-((E)-2-Tributylstannanyl-vinyl)-pyridine
3-Ethynyl-pyridine (1.03 g, 10 mmol) and tributyltin hydride (3.2 mL, 12 mmol) were stirred in dry THF (10 mL) with a catalytic amount of AIBN at 50° C. for 18 h. The solution was concentrated in vacuo and purified by silica gel chromatography (10% EOAc/hexanes) to give 2.09 g (53%) of the title compound as a clear oil. 1H NMR (400 MHz, DMSO-d6): δ 8.61 (s, 1H), 8.45 (d, 1H, J=3.2 Hz), 7.75 (d, 1H, J=7.6 Hz), 7.25-7.29 (m, 1H), 6.93 (AB q, 2H, J=57.2, 19.6 Hz), 1.49-1.59 (m, 6H), 1.28-1.39 (m, 6H), 0.87-1.00 (m, 15H).

reactant | 3-Ethynyl-pyridine | 10 mmol, 1.03 g | C(#C)C=1C=NC=CC1 | C7H5N
reactant | tributyltin hydride | 12 mmol, 3.2 mL | C(CCC)[SnH](CCCC)CCCC
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-((E)-2-Tributylstannanyl-vinyl)-pyridine | 2.09 g, 53% | C(CCC)[Sn](/C=C/C=1C=NC=CC1)(CCCC)CCCC | InChI=1S/C7H6N.3C4H9.Sn/c1-2-7-4-3-5-8-6-7;3*1-3-4-2;/h1-6H;3*1,3-4H2,2H3;
